US07893056B2
(2S)-1-{[(Phenylmethyl)oxy]carbonyl}-2-piperidinecarboxylic acid (1.0 g, 3.798 mmol) in THF (5 mL) was cooled to −18° C. and borane-THF complex (3.798 mL, 3.798 mmol) was added over 10 min. The mixture was allowed to warm to room temperature with stirring overnight, then cooled to 0° C., and water (4 mL) was added, followed by K2CO3 (1.4 g). The phases were separated, and the aqueous phase was extracted with Et2O (3×25 mL). The combined organic phase was washed with brine (1×25 mL) and dried over anhydrous MgSO4, filtered, and concentrated in vacuo to provide phenylmethyl (2S)-2-(hydroxymethyl)-1-piperidinecarboxylate (815 mg, 86%). LCMS: (M+H)+: 250.2.

reactant | (2S)-1-{[(Phenylmethyl)oxy]carbonyl}-2-piperidinecarboxylic acid | 3.798 mmol, 1.0 g | C1(=CC=CC=C1)COC(=O)N1[C@@H](CCCC1)C(=O)O | C14H17NO4
reactant | water | 4 mL | O | H2O
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | phenylmethyl (2S)-2-(hydroxymethyl)-1-piperidinecarboxylate | 815 mg, 86% | OC[C@H]1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
